US07022725B2
A mixture of 3-[5-(2,4-dichlorophenyl)-4-isoxazolyl]propionic acid (3.00 g), conc. sulfuric acid (0.1 ml) and methanol (50 ml) was refluxed for 4 hr. The reaction mixture was concentrated, water was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[5-(2,4-dichlorophenyl)-4-isoxazolyl]propionate (2.96 g, yield 94%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio). NMR (CDCl3) δ: 2.46–2.58 (2H, m), 2.71–2.81 (2H, m), 3.66 (3H, s), 7.35–7.42 (2H, m), 7.54–7.58 (1H, m), 8.28 (1H, s).

reactant | 3-[5-(2,4-dichlorophenyl)-4-isoxazolyl]propionic acid | 3.00 g | ClC1=C(C=CC(=C1)Cl)C1=C(C=NO1)CCC(=O)O | C12H9Cl2NO3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | methyl 3-[5-(2,4-dichlorophenyl)-4-isoxazolyl]propionate | 2.96 g, yield 94% | ClC1=C(C=CC(=C1)Cl)C1=C(C=NO1)CCC(=O)OC | C13H11Cl2NO3
